US04002640
4.4 G. of 1-amino-2-nitro-4-thiocyanatobenzene in 10 ml. of dimethylformamide is treated under nitrogen with 0.85 g. of sodium borohydride in 10 ml. of DMF at not greater than 30° C. The mixture is stirred at 15° to 20° C. for 1 hour, then treated with 5 g. of chloroacetonitrile at 20° to 25° C. The mixture is treated overnight at room temperature and poured into water. Filtration and recrystallization from methanol affords 1 -amino-2-nitro-4-cyanomethylthiobenzene.

reactant | 1-amino-2-nitro-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C7H5N3O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
solvent | water | O | H2O
product | 1 -amino-2-nitro-4-cyanomethylthiobenzene | NC1=C(C=C(C=C1)SCC#N)[N+](=O)[O-] | C8H7N3O2S
